US08669234B2
2-[5-(4-Chloro-2-cyano-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl Ester:
2-[5-(4-Chloro-2-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (985 mg, 2.62 mmol) was dissolved in ethanol (20 mL) and hydroxylamine (50% w/w in H2O, 642 μL, 10.48 mmol) was added. After stirring at room temperature for 15 h, the solution was concentrated. To the crude oxime was added TBSCl (474 mg, 3.14 mmol), imidazole (357 mg, 5.24 mmol) and DMF (10 mL). The reaction mixture was stirred at 120° C. for 80 minutes at which point more TBSCl (237 mg, 1.58 mmol) and imidazole (177 mg, 2.60 mmol) were added. The reaction mixture was stirred an additional 17 hours at 120° C. then cooled to room temperature, diluted with EtOAc. The organic phase was washed with saturated aqueous NaHCO3 and brine then dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was purified by silica column chromatography (25% to 50% EtOAc/Hexane) to afford the title compound 2-[5-(4-Chloro-2-cyano-phenyl)-1H-imidazol-2-Yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (500 mg, 51%).

reactant | 2-[5-(4-Chloro-2-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.62 mmol, 985 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=C(C=C(C=C1)Cl)C=O | C19H22ClN3O3
reactant | hydroxylamine | 10.48 mmol, 642 μL | NO | H3NO
reactant | TBSCl | 3.14 mmol, 474 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 5.24 mmol, 357 mg | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 1.58 mmol, 237 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 2.60 mmol, 177 mg | N1C=NC=C1 | C3H4N2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[5-(4-Chloro-2-cyano-phenyl)-1H-imidazol-2-Yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 500 mg, 51% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=C(C=C(C=C1)Cl)C#N | C19H21ClN4O2
